US04038281
22.1 g. of 4-hydroxy-2-methyl-2H-pyrazolo[3,4-b]pyridine-5-carboxylic acid, ethyl ester (0.1 mol.), 17 g. of 1-bromo-3-methylbutane and 21 g. of potassium carbonate are heated together with stirring in 100 ml. of dimethylformamide at 100° for 12 hours. The mixture is filtered hot, evaporated to dryness and the residue recrystallized from ethyl acetate to obtain 4,7-dihydro-2-methyl-7-(3-methylbutyl)-4-oxo-2H-pyrazolo[3,4-b]pyridine-5-carboxylic acid, ethyl ester, yield (63%); m.p. 105°-106°.

reactant | 4-hydroxy-2-methyl-2H-pyrazolo[3,4-b]pyridine-5-carboxylic acid, ethyl ester | 0.1 mol | OC=1C=2C(N=CC1C(=O)OCC)=NN(C2)C | C10H11N3O3
reactant | 1-bromo-3-methylbutane | BrCCC(C)C | C5H11Br
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 4,7-dihydro-2-methyl-7-(3-methylbutyl)-4-oxo-2H-pyrazolo[3,4-b]pyridine-5-carboxylic acid, ethyl ester | CN1N=C2N(C=C(C(C2=C1)=O)C(=O)OCC)CCC(C)C | C15H21N3O3
